US04203988
C. N-(2-Hydroxyethyl)-N'-(2-dimethylaminoethyl)-N'-(4,6-dimethyl-2-pyridyl)urea Dihydrate
A solution of N-(2-acetoxyethyl)-N'-(2-dimethylamino ethyl)-N'-(4,6-dimethyl-2-pyridyl)urea (11.5 g, 0.034 mole) in 1:1 ethanol-aqueous ammonia (300 ml.) is allowed to overnight at room temperature. The solvent is then removed under vacuum and the residue is crystallized from acetonitrile. The yield of crude product is 7.30 g, m.p. 173-176. Recrystallization from acetonitrile gives pure product melitng at 177°-179° C.

reactant | N-(2-acetoxyethyl)-N'-(2-dimethylamino ethyl)-N'-(4,6-dimethyl-2-pyridyl)urea | 0.034 mole, 11.5 g | C(C)(=O)OCCNC(=O)N(C1=NC(=CC(=C1)C)C)CCN(C)C | C16H26N4O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-(2-Hydroxyethyl)-N'-(2-dimethylaminoethyl)-N'-(4,6-dimethyl-2-pyridyl)urea Dihydrate | O.O.OCCNC(=O)N(C1=NC(=CC(=C1)C)C)CCN(C)C | InChI=1S/C14H24N4O2.2H2O/c1-11-9-12(2)16-13(10-11)18(7-6-17(3)4)14(20)15-5-8-19;;/h9-10,19H,5-8H2,1-4H3,(H,15,20);2*1H2
